US06303636B1
To a solution of 1-aminocyclopentane-1-carboxylic acid (6.0 grams, 46.5 mmole) and triethylamine (14 mL, 100 mmole) in dioxane (90 mL) and water (90 mL) was added 4methoxybenzenesulfonyl chloride (10.6 grams, 51.3 mmole). The resulting mixture was stirred at room temperature for 4 hours, acidified with aqueous 1N hydrochloric acid solution, and extracted twice with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over magnesium sulfate and concentrated to leave a tan solid which was triturated with chloroform to afford 1-(4-methoxybenzenesulfonylamino)-cyclopentane-1 carboxylic acid as a white solid, 5.42 grams (39%).

reactant | 1-aminocyclopentane-1-carboxylic acid | 46.5 mmole, 6.0 grams | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | triethylamine | 100 mmole, 14 mL | C(C)N(CC)CC | C6H15N
reactant | 4methoxybenzenesulfonyl chloride | 51.3 mmole, 10.6 grams | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
solvent | water | 90 mL | O | H2O
product | 1-(4-methoxybenzenesulfonylamino)-cyclopentane-1 carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)NC1(CCCC1)C(=O)O | C13H17NO5S
